US08871782B2
Sodium hydride (0.61 g, 15 mmol, available as a 60% dispersion in mineral oil) was added to a solution of 1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-ol (2.5 g, 12 mmol) in DMF. The reaction mixture was stirred for 30 minutes, and ethyl bromoacetate (1.96 g, 11.7 mmol) was added. The stirring was continued for five hours, and a small volume of ethanol was added. The volatiles were removed under reduced pressure, and the residue was dissolved in dichloromethane. The resulting solution was washed three times with deionized water, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting yellow solid was recrystallized from ethyl acetate to provide 1.65 g of ethyl 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetate as a white solid.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-ol | 12 mmol, 2.5 g | CN1C(=NC=2C=NC=3C=CC(=CC3C21)O)C | C12H11N3O
reactant | ethyl bromoacetate | 11.7 mmol, 1.96 g | BrCC(=O)OCC | C4H7BrO2
reactant | ethanol | C(C)O | C2H6O
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 2-[(1,2-dimethyl-1H-imidazo[4,5-c]quinolin-8-yl)oxy]acetate | 1.65 g | CN1C(=NC=2C=NC=3C=CC(=CC3C21)OCC(=O)OCC)C | C16H17N3O3
